* switches.lib - parameter controlled switches for LTspice
* 
* Just how hard can it be to describe switch positions in an unambiguous
* manner? I ended up choosing "in" for when the switch is ... depressed?
* Poor switch! I hope you get well soon.
* 
* "nin" is "normalized in", value being always either 0 or 1
* (1/Gmin) and Gmin are substituted with values from m4/ltspice.m4
*

.SUBCKT sw_spst_nc 1 2
.param nin=if(in,1,0)
R1 1 2 {nin * (1/Gmin) + Gmin}
.ENDS

.SUBCKT sw_spst_no 1 2
.param nin=if(in,0,1)
R1 1 2 {nin * (1/Gmin) + Gmin}
.ENDS

.SUBCKT sw_dpst_nc 1 2 3 4
.param nin=if(in,1,0)
R1 1 2 {nin * (1/Gmin) + Gmin}
R2 3 4 {nin * (1/Gmin) + Gmin}
.ENDS

.SUBCKT sw_dpst_no 1 2 3 4
.param nin=if(in,0,1)
R1 1 2 {nin * (1/Gmin) + Gmin}
R2 3 4 {nin * (1/Gmin) + Gmin}
.ENDS

.SUBCKT sw_spdt 1 2 3
.param nin=if(in,0,1)
R1 1 2 {inv(nin) * (1/Gmin) + Gmin}
R2 1 3 {nin * (1/Gmin) + Gmin}
.ENDS
